US07601868B2
4′-chloro-N-[2-(4-methoxyphenyl)ethyl][1,1′-biphenyl]-4-carboxamide
To a solution of 2-(4-methoxyphenyl)ethaneamine (500 mg, 3.31 mmol), 4′-chloro[1,1′-biphenyl]-4-carboxylic acid (846 mg, 3.64 mmol) and 1-hydroxybenzotriazole (760 mg, 4.96 mmol) in dimethylformamide (10 ml) was added ethyldimethylaminopropylcarbodiimide hydrochloride (951 mg, 4.96 mmol) at 0° C., and the mixture was was stirred at room temperature for 16 hrs. Ethyl acetate was added to the reaction mixture, and the mixture was washed with 1N aqueous sodium hydroxide solution and brine, and dried over anhydrous sodium sulfate. The solvent was concentrated under reduced pressure to give the title compound (1.03 g).

reactant | 2-(4-methoxyphenyl)ethaneamine | 3.31 mmol, 500 mg | COC1=CC=C(C=C1)CCN | C9H13NO
reactant | 4′-chloro[1,1′-biphenyl]-4-carboxylic acid | 3.64 mmol, 846 mg | ClC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C13H9ClO2
reactant | 1-hydroxybenzotriazole | 4.96 mmol, 760 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | ethyldimethylaminopropylcarbodiimide hydrochloride | 4.96 mmol, 951 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4′-chloro-N-[2-(4-methoxyphenyl)ethyl][1,1′-biphenyl]-4-carboxamide | 1.03 g | ClC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)NCCC1=CC=C(C=C1)OC | C22H20ClNO2
